US06410592B1
C: 3,4,-Dihydro-2H-phenanthren-1-one
To 4-(1-naphthyl)butanoic acid (3.52 g) was added polyphosphoric acid (35.0 g) and the mixture was stirred at 40° C. for 20 h. The reaction was then diluted with water (200 cm3) and extracted with dichloromethane (3×100 cm3). The organic extracts were washed with water, aqueous sodium hydrogen carbonate solution (0.5 M) and then saturated aqueous sodium chloride solution. It was then dried (Na2SO4) and the solvent was removed under reduced pressure to afford the title compound as an oil that solidified on standing (3.09 g).

reactant | 4-(1-naphthyl)butanoic acid | 3.52 g | C1(=CC=CC2=CC=CC=C12)CCCC(=O)O | C14H14O2
solvent | water | 200 cm3 | O | H2O
product | 3,4,-Dihydro-2H-phenanthren-1-one | C1(CCCC=2C3=CC=CC=C3C=CC12)=O | C14H12O
